US06403595B1
4-Benzyloxycarbonyl-1-[4-hydroxy-1-(4-pyridyl)piperidin-4-ylmethyl]-2-oxo-1,2,3,4-tetrahydropyrazine
To a suspension of sodium hydride in oil (2.35 g) in dimethylsulfoxide (100 ml) was added portionwise, under ice-cooling, trimethylsulfoxonium iodide (13.5 g), and the mixture was stirred at room temperature for 30 minutes to give a uniform solution. To the reaction solution was added dropwise a solution of 1-(4-pyridyl)-4-piperidinone (9.0 g) in dimethylsulfoxide (20 ml), under ice-cooling, and the mixture was stirred at room temperature for 2 hours. To the reaction solution were added 4-benzyloxycarbonyl-2-oxo-1,2,3,4-tetrahydropyrazine (11.8 g), potassium t-butoxide (1.7 g) and t-butanol (200 ml), and the mixture was stirred at 80° C. for 15 hours. The reaction solution was concentrated, and to the residue was added water. The mixture was extracted with dichloromethane, washed with brine, dried and concentrated, and the resulting residue was purified with silica gel column chromatography (dichloromethane:methanol containing 10% ammonia solution=20:1) to give colorless amorphous of the title compound (6.93 g).

reactant | sodium hydride | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 13.5 g | [I-].C[S+](=O)(C)C
reactant | 1-(4-pyridyl)-4-piperidinone | 9.0 g | N1=CC=C(C=C1)N1CCC(CC1)=O | C10H12N2O
reactant | 4-benzyloxycarbonyl-2-oxo-1,2,3,4-tetrahydropyrazine | 11.8 g | C(C1=CC=CC=C1)OC(=O)N1CC(NC=C1)=O | C12H12N2O3
reactant | potassium t-butoxide | 1.7 g | CC(C)([O-])C.[K+]
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | t-butanol | 200 ml | C(C)(C)(C)O | C4H10O
product | 4-Benzyloxycarbonyl-1-[4-hydroxy-1-(4-pyridyl)piperidin-4-ylmethyl]-2-oxo-1,2,3,4-tetrahydropyrazine | 6.93 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(C=C1)CC1(CCN(CC1)C1=CC=NC=C1)O)=O | C23H26N4O4
